US06977262B2
A suspension of 2-chloro-m-xylene (15 ml), N-bromosuccinimide (23.3 g) and benzoyl peroxide (200 mg) in carbon tetrachloride (150 ml) was heated under reflux for 6 hours. The insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent:hexane) to give 2-bromomethyl-1-chloro-6-methylbenzene (16.0 g) as a colorless oil. 2-Bromomethyl-1-chloro-6-methylbenzene (25.4 g) and hexamethylenetetramine (32.4 g) were dissolved in acetic acid-water (1:1, 10 ml) and the mixture was heated under reflux for 5 hours. To the reaction mixture was added concentrated hydrochloric acid (40 ml) and the mixture was heated under reflux for 1 hour. The reaction mixture was extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 2-chloro-3-methylbenzaldehyde (19.4 g) as a yellow oil. Subsequently, the title compound was prepared from 2-chloro-3-methylbenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-chloro-m-xylene | 15 ml | ClC1=C(C=CC=C1C)C | C8H9Cl
reactant | N-bromosuccinimide | 23.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-1-chloro-6-methylbenzene | 16.0 g | BrCC1=C(C(=CC=C1)C)Cl | C8H8BrCl
